* C:\Documents and Settings\caleb\My Documents\opencalc\trunk\simulation\battery charger and monitor.asc
D1 VBUS N001 BAT54
R1 N005 N001 100k
Q1 N002 N005 N001 0 2N3906
R2 N005 N008 2.2k
R3 N010 CHARGE_ENABLE 47k
Q2 N008 N010 0 0 2N3904
R4 N003 N002 12.7
R5 VBATT N003 12.7
V1 VBATT 0 3
V2 VBUS 0 5
V3 CHARGE_ENABLE 0 PWL(0 0 1m 0 2m 3.0)
Q3 N004 N006 VBATT 0 2N3906
R6 N006 N007 47k
Q4 N007 N009 0 0 2N3904
R7 N004 LRADC4 75k
R8 LRADC4 0 24k
V4 BATT_MEASURE 0 PWL(0 0 5m 3 100m 3.0)
R9 BATT_MEASURE N009 100k
C1 LRADC4 0 10n
.model D D
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.bjt
.tran 20m
.backanno
.end
